US07977331B1
To a solution of methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate (1.00 g, 2.97 mmol) in N,N-dimethylformamide (10 ml) was added sodium hydride (60% in oil, 139 mg, 3.47 mmol) under ice-cooling, and the mixture was stirred for 1 hr. To this reaction mixture was added chloromethylsulfanylbenzene (0.38 ml, 2.94 mmol) under ice-cooling, and the mixture was stirred at room temperature for 1.5 hr. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (hexane:ethyl acetate=20:1-7:1) to give methyl 2-bromo-3-cyclohexyl-1-phenylsulfanylmethyl-1H-indole-6-carboxylate (1.10 g, yield 84.0%).

reactant | methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate | 2.97 mmol, 1.00 g | BrC=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C16H18BrNO2
reactant | sodium hydride | 3.47 mmol, 139 mg | [H-].[Na+]
reactant | chloromethylsulfanylbenzene | 2.94 mmol, 0.38 ml | ClCSC1=CC=CC=C1 | C7H7ClS
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | methyl 2-bromo-3-cyclohexyl-1-phenylsulfanylmethyl-1H-indole-6-carboxylate | 1.10 g, yield 84.0% | BrC=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CSC1=CC=CC=C1 | C23H24BrNO2S
